US04054719
Following the procedure of Example, 1, 5 grams of 4-phenylphenacyl bromide are reacted with 5 grams of acetic acid to obtain 4-phenylphenacyl acetate, m.p. 109°-110° C.

reactant | 4-phenylphenacyl bromide | 5 grams | C1(=CC=CC=C1)C1=CC=C(C(CBr)=O)C=C1 | C14H11BrO
reactant | acetic acid | 5 grams | C(C)(=O)O | C2H4O2
product | 4-phenylphenacyl acetate | C(C)(=O)OCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H14O3
